* c:\users\chaithu\esim-workspace\instrumentationamplifier\instrumentationamplifier.cir

.include lm_741.sub
x1 ? net-_r1-pad1_ in net-_x1-pad4_ ? net-_r2-pad2_ net-_x1-pad7_ ? lm_741
x2 ? net-_r1-pad2_ gnd net-_x2-pad4_ ? net-_r3-pad2_ net-_x2-pad7_ ? lm_741
x3 ? net-_r5-pad2_ net-_r4-pad2_ net-_x3-pad4_ ? out net-_x3-pad7_ ? lm_741
v2  net-_x1-pad7_ gnd 15
v3  gnd net-_x1-pad4_ 15
v5  net-_x2-pad7_ gnd 15
v4  gnd net-_x2-pad4_ 15
v6  net-_x3-pad7_ gnd 15
v7  gnd net-_x3-pad4_ 15
r2  net-_r1-pad1_ net-_r2-pad2_ 2k
r5  net-_r2-pad2_ net-_r5-pad2_ 6k
r4  net-_r3-pad2_ net-_r4-pad2_ 6k
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
r7  net-_r5-pad2_ out 10k
r6  net-_r4-pad2_ gnd 10k
r3  net-_r1-pad2_ net-_r3-pad2_ 2k
v1  in gnd sine(0 0.120 10 0 0)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-03 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
